US04192880
Preparation of 2-(6-ethylpyridin-2-yl)benzimidazole
2.2 g. of o-phenylenediamine, 3 g. of 6-ethylpicolinic acid and 15 g. of polyphosphoric acid were heated at 160°-180° C. under nitrogen gas current for 2 hours with stirring. The reaction mixture was diluted with 200 ml. of water and neutralized with sodium carbonate. The resulting precipitate was filtered off, dried, subjected to silica gel column chromatography (developed with 1:1 by volume mixture of benzene and ethyl acetate) and recrystallized from benzene. 3.3 g. of colorless needles of the product (74% of theory) was obtained. M.P. 161°-161.5° C.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 6-ethylpicolinic acid | C(C)C1=CC=CC(=N1)C(=O)O | C8H9NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(6-ethylpyridin-2-yl)benzimidazole | C(C)C1=CC=CC(=N1)C=1NC2=C(N1)C=CC=C2 | C14H13N3
